US04031226
A mixture of 7.6 parts of 1-(2-nitrobenzoyl)aziridine, 9.97 parts of 1-(4-fluorophenyl)-1,3,8-triazaspiro[4,5]decan-4-one, 43.2 parts of benzene and 6.4 parts of methanol is stirred and refluxed for 1.50 hours. Trichloromethane is added and the whole is washed three times with water. The undissolved precipitate is filtered off and the organic phase is dried, filtered and evaporated. The residue is converted into the hydrochloride salt in 2-propanone and 2-propanol. The salt is filtered off and crystallized from a mixture of ethanol and water. It is filtered off and dried in vacuo, yielding 2.7 parts of N-{2-[1-(4-fluorophenyl)-4-oxo1,3,8-triazaspiro[4,5]dec-8-yl]ethyl}-2-nitrobenzamide hydrochloride; m.p. 267.2° C.

reactant | 1-(2-nitrobenzoyl)aziridine | [N+](=O)([O-])C1=C(C(=O)N2CC2)C=CC=C1 | C9H8N2O3
reactant | 1-(4-fluorophenyl)-1,3,8-triazaspiro[4,5]decan-4-one | FC1=CC=C(C=C1)N1CNC(C12CCNCC2)=O | C13H16FN3O
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | methanol | CO | CH4O
reactant | Trichloromethane | ClC(Cl)Cl | CHCl3
product | N-{2-[1-(4-fluorophenyl)-4-oxo1,3,8-triazaspiro[4,5]dec-8-yl]ethyl}-2-nitrobenzamide hydrochloride | Cl.FC1=CC=C(C=C1)N1CNC(C12CCN(CC2)CCNC(C2=C(C=CC=C2)[N+](=O)[O-])=O)=O | InChI=1S/C22H24FN5O4.ClH/c23-16-5-7-17(8-6-16)27-15-25-21(30)22(27)9-12-26(13-10-22)14-11-24-20(29)18-3-1-2-4-19(18)28(31)32;/h1-8H,9-15H2,(H,24,29)(H,25,30);1H
